US04851537
In a dried Schlenk-tube having its atmosphere displaced with argon, 118.6 mg (0.270 mmol) of (Z)-N-acetyl-7-acetoxy-1-(3-acetoxy-4-methoxyphenylmethylene)-6-methoxy-1,2,3,4-tetrahydroisoquinoline was charged and dissolved in 1.5 ml of methylene chloride. To the solution was further added 7.5 ml of ethanol, followed by degasification by freezing three times. Separately, in a dried Schlenk-tube having its atmosphere displaced with argon, 1.1 mg (6.5×10-4 mmol) of Ru2Cl4 ((R)-(+)-BINAP)2N(C2H5)3 was charged and dissolved in 1.5 ml of methylene chloride which had been previously degassed by freezing three times. To the solution was further added 7.5 ml of ethanol. Both the solutions were transferred to a pressure bottle and subjected to hydrogenation under a hydrogen pressure of 4 atms. at 23° C. for 62 hours while stirring. After completion of the reaction, the solvent was removed by distillation under reduced pressure, and the residue was purified by silica gel column chromatography (silica gel: 15 g, eluent: ethyl acetate/hexane=3:1 by volume) to give 104.7 mg (0.237 mmol) of (R)-N-acetyl-7-acetoxy-1-(3-acetoxy-4-methoxyphenylmethyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline (hereinafter referred to as acetylated N-acetylnorreticurine) in a yield of 88%.

reactant | (Z)-N-acetyl-7-acetoxy-1-(3-acetoxy-4-methoxyphenylmethylene)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.270 mmol, 118.6 mg | C(C)(=O)N1\C(\C2=CC(=C(C=C2CC1)OC)OC(C)=O)=C/C1=CC(=C(C=C1)OC)OC(C)=O | C24H25NO7
reactant | ethanol | 7.5 ml | C(C)O | C2H6O
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 1.5 ml | C(Cl)Cl | CH2Cl2
product | (R)-N-acetyl-7-acetoxy-1-(3-acetoxy-4-methoxyphenylmethyl)-6-methoxy-1,2,3,4-tetrahydroisoquinoline | 0.237 mmol, 104.7 mg, yield of 88% | C(C)(=O)N1[C@@H](C2=CC(=C(C=C2CC1)OC)OC(C)=O)CC1=CC(=C(C=C1)OC)OC(C)=O | C24H27NO7
